US06559101B2
2. Preparation of 2-amino-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidine
Ethyl N-[N′-(4,6-dimethoxypyrimidin-2-yl)-thiocarbamoyl]carbamate (0.50 g, 1.7 mmol) was mixed with ethanol (5 mL). To this mixture was added hydroxylamine hydrochloride (0.12 g, 1.7 mmol) and diisopropylethylamine (0.30 mL, 1.7 mmol). The resulting mixture was allowed to stir at room temperature. After 2.5 hours, additional diisopropylethylamine (0.30 mL, 1.7 mmol) was added to the mixture. After 48 hours the ethanol was removed in vacuo and the residue was partitioned between H2O and Et2O to give a powder. The powder was filtered and dried to afford the product as a tan powder (0.27 g, 82%). mp 215-220° C. 1H NMR (DMSO-d6): δ6.04 (s, 1H); 5.97 (bs, 2H); 4.04 (s, 3H).

reactant | Ethyl N-[N′-(4,6-dimethoxypyrimidin-2-yl)-thiocarbamoyl]carbamate | 1.7 mmol, 0.50 g | COC1=NC(=NC(=C1)OC)NC(=S)NC(OCC)=O | C10H14N4O4S
reactant | hydroxylamine hydrochloride | 1.7 mmol, 0.12 g | Cl.NO
reactant | diisopropylethylamine | 1.7 mmol, 0.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 1.7 mmol, 0.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-amino-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyrimidine | 0.27 g, 82% | NC1=NN2C(N=C(C=C2OC)OC)=N1 | C7H9N5O2
